US07579469B2
To a solution of 4-(3-bromophenyl)-1,1,1-trifluoro-4-methylpentan-2-one (68 mg, 2.2 mmol) in 2.9 mL of anhydrous DMSO was added over 5 minutes a solution the ylide of trimethylsulfoxonium iodide (3.3 mL of a 0.8M DMSO solution prepared from 2.66 g (12.1 mmol) of trimethylsulfoxonium iodide in 15 mL of anhydrous DMSO and 483 mg of 60% NaH in mineral oil (12.1 mmol) added in portions and aged for 30 minutes). The mixture stirred 2 hours and quenched with water and ethyl acetate. The organic phase was washed with water and brine, and dried over sodium sulfate. Removal of the volatiles in vacuo afforded the yellow oil 2-[2-(3-bromophenyl)-2-methylpropyl]-2-trifluoromethyloxirane which was used without further purification.

reactant | 4-(3-bromophenyl)-1,1,1-trifluoro-4-methylpentan-2-one | 2.2 mmol, 68 mg | BrC=1C=C(C=CC1)C(CC(C(F)(F)F)=O)(C)C | C12H12BrF3O
reactant | trimethylsulfoxonium iodide | [I-].C[S+](=O)(C)C
reactant | trimethylsulfoxonium iodide | 12.1 mmol, 2.66 g | [I-].C[S+](=O)(C)C
reactant | NaH | 483 mg | [H-].[Na+]
solvent | DMSO | 2.9 mL | CS(=O)C | C2H6OS
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | DMSO | 0.8M | CS(=O)C | C2H6OS
product | 2-[2-(3-bromophenyl)-2-methylpropyl]-2-trifluoromethyloxirane | BrC=1C=C(C=CC1)C(CC1(OC1)C(F)(F)F)(C)C | C13H14BrF3O
